US05705702
A Grignard reagent which was conventionally prepared using 24.3 g (1 mol) of magnesium, 203.2 g (1.1 mol) of 4-tert-butoxyphenyl chloride, and 280 g of THF was diluted with 500 g of THF and cooled to lower than -60° C. in a dry ice/methanol bath. Then 47.5 g (0.4 mol) of thionyl chloride diluted with 70 g of THF was added dropwise over 1 hour at less 0° C. After ripening for 1 hour in an ice bath, 36 g of water was added to decompose the excess of Grignard reagent. Separation was carried out by adding 1,000 g of methylene chloride and further 400 g of saturated ammonium chloride aqueous solution and 300 g of water. The organic layer was washed twice with 700 g of pure water. The organic layer was dried over magnesium sulfate and filtered and then evaporated. The resulting oily residue was recrystallized, isolating bis(4-tert-butoxyphenyl) sulfoxide in a yield of 60%.

reactant | magnesium | 1 mol, 24.3 g | [Mg] | Mg
reactant | 4-tert-butoxyphenyl chloride | 1.1 mol, 203.2 g | C(C)(C)(C)OC1=CC=C(C=C1)Cl | C10H13ClO
reactant | thionyl chloride | 0.4 mol, 47.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | water | 36 g | O | H2O
solvent | THF | 500 g | C1CCOC1 | C4H8O
solvent | THF | 70 g | C1CCOC1 | C4H8O
solvent | THF | 280 g | C1CCOC1 | C4H8O
product | bis(4-tert-butoxyphenyl) sulfoxide | yield of 60% | C(C)(C)(C)OC1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)OC(C)(C)C | C20H26O3S
